### ISSUE TITLE
axiom α ≃ β → α = β と ofReduceBool は矛盾する

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#1804]
```lean
import Mathlib.Data.Setoid.Basic

axiom equiv_of_eq {α β : Type} (f : α ≃ β) : α = β

def Nat' := Quotient (Setoid.ker fun x : Nat ↦ x - 1)
@[simp] theorem mk_zero : (⟦0⟧ : Nat') = ⟦1⟧ := Quotient.sound rfl

def equivNat : Nat' ≃ Nat where
  toFun x := x.lift _ fun _ _ ↦ id
  invFun x := ⟦x + 1⟧
  left_inv x := x.inductionOn fun x ↦ x.recOn (by simp) (by simp)
  right_inv x := by simp

def castNat : Nat' → Nat := cast (equiv_of_eq equivNat)

theorem contradiction : False := by
  have : castNat ⟦0⟧ ≠ castNat ⟦1⟧ := by native_decide
  simpa

-- 'contradiction' depends on axioms: [equiv_of_eq, propext, Lean.ofReduceBool, Quot.sound]
#print axioms contradiction
```

[#general > Cardinality model incompatible with Lean compiler](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Cardinality.20model.20incompatible.20with.20Lean.20compiler/with/501673961)
